US04645775
β-Acetoxyethyl 1,4-dihydro-2,6-dimethyl-3-nitro-4-(2-chlorophenyl)-pyridine-5-carboxylate
28.1 g (200 mmol) of 2-chlorobenzaldehyde are boiled under reflux with 37.4 g (200 mmol) of 2-acetoxyethyl β-aminocrotonate and 32.6 g (320 mmol) of nitroacetone in 400 ml of ethanol for 4 hours. The mixture is cooled and concentrated. The evaporation residue is taken up in ethyl acetate and the mixture is washed with water, sodium bicarbonate solution and water again, dried and concentrated. The semi-solid evaporation residue is stirred with ethanol, filtered off with suction and washed with ethanol. 23.2 g (29.4% of theory) of a yellow-colored product of melting point 158°-160° C. are obtained.

reactant | 2-chlorobenzaldehyde | 200 mmol, 28.1 g | ClC1=C(C=O)C=CC=C1 | C7H5ClO
reactant | 2-acetoxyethyl β-aminocrotonate | 200 mmol, 37.4 g | N\C(=C/C(=O)OCCOC(C)=O)\C | C8H13NO4
reactant | nitroacetone | 320 mmol, 32.6 g | [N+](=O)([O-])CC(C)=O | C3H5NO3
solvent | ethanol | 400 ml | C(C)O | C2H6O
product | β-Acetoxyethyl 1,4-dihydro-2,6-dimethyl-3-nitro-4-(2-chlorophenyl)-pyridine-5-carboxylate | CC=1NC(=C(C(C1[N+](=O)[O-])C1=C(C=CC=C1)Cl)C(=O)OCCOC(C)=O)C | C18H19ClN2O6
